US08133908B2
Description 23: trifluoromethanesulfonic acid-{2-[(4S)-2,2-dimethyl-4-(2-propen-1-yl)-1,3-oxazolidin-3-yl]-2-oxoethyl}amine (1:1) (D23)
To a solution of 1,1-dimethylethyl {2-[(4S)-2,2-dimethyl-4-(2-propen-1-yl)-1,3-oxazolidin-3-yl]-2-oxoethyl}carbamate D22 (28.67 g) in DCM (300 ml) 2,6-dimethylpyridine (27.9 ml, 240 mmol) was added followed by trimethylsilyl trifluoromethanesulfonate (34.7 ml, 192 mmol) the mixture was stirred at room temperature for 30 min. The reaction was quenched with 2 ml of water and the solvent was removed under reduced pressure, the residue was charged on a Biotage 75 L column eluting with [DCM/MeOH 100:0 then 98:2 then 96:4 then 85:15]. Evaporation of the solvent gave: the title compound D23 (21 g). UPLC (Acid FINAL_QC): rt=0.36 minutes, peak observed: 199 (M+1−CHF3O3S)C10H18N2O2.CHF3O3S requires 348. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.40 (s, 3 H), 1.50 (s, 3 H), 2.17-2.43 1.40 (m, 2 H), 3.68-3.98 (m, 4 H), 3.99-4.09 (m, 1 H), 4.83-5.40 (m, 2 H), 5.58-5.97 (m, 1H), 7.63-8.36 (br.s., 2 H)

reactant | 1,1-dimethylethyl {2-[(4S)-2,2-dimethyl-4-(2-propen-1-yl)-1,3-oxazolidin-3-yl]-2-oxoethyl}carbamate | CC1(OC[C@@H](N1C(CNC(OC(C)(C)C)=O)=O)CC=C)C | C15H26N2O4
reactant | DCM | 240 mmol, 300 ml | C(Cl)Cl | CH2Cl2
reactant | trimethylsilyl trifluoromethanesulfonate | 192 mmol, 34.7 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
product | trifluoromethanesulfonic acid {2-[(4S)-2,2-dimethyl-4-(2-propen-1-yl)-1,3-oxazolidin-3-yl]-2-oxoethyl}amine | FC(S(=O)(=O)O)(F)F.CC1(OC[C@@H](N1C(CN)=O)CC=C)C | InChI=1S/C10H18N2O2.CHF3O3S/c1-4-5-8-7-14-10(2,3)12(8)9(13)6-11;2-1(3,4)8(5,6)7/h4,8H,1,5-7,11H2,2-3H3;(H,5,6,7)/t8-;/m0./s1
